US08541588B2
4-[4-Chloro-2-(1-methyl-1H-pyrazol-5-yl)phenoxy]-3-cyano-N-1,3-thiazol-2-ylbenzenesulfonamide
3-Cyano-4-fluoro-N-1,3-thiazol-2-ylbenzenesulfonamide, (Preparation 46, 500 mg, 0.00176 mol), 4-chloro-2-(1-methyl-1H-pyrazol-5-yl)phenol, (Preparation 89, 370 mg, 0.00177 mol) and potassium carbonate (700 mg, 0.00287 mol) were stirred in dimethylformamide (5 mL) at 80° C. for 24 hours. The reaction mixture was cooled and partitioned between ethyl acetate (150 mL) and aqueous hydrochloric acid (80 mL of 2 molar), the organic layer was dried over anhydrous sodium sulphate, filtered and the solvents removed in vacuo to give an orange solid. The solid was triturated with diethyl ether (20 mL) to give the title compound as an orange powder, (680 mg).

reactant | 3-Cyano-4-fluoro-N-1,3-thiazol-2-ylbenzenesulfonamide | 0.00176 mol, 500 mg | C(#N)C=1C=C(C=CC1F)S(=O)(=O)NC=1SC=CN1 | C10H6FN3O2S2
reactant | 4-chloro-2-(1-methyl-1H-pyrazol-5-yl)phenol | ClC1=CC(=C(C=C1)O)C1=CC=NN1C | C10H9ClN2O
reactant | potassium carbonate | 0.00287 mol, 700 mg | C([O-])([O-])=O.[K+].[K+]
solvent | dimethylformamide | 5 mL | CN(C=O)C | C3H7NO
product | 4-[4-Chloro-2-(1-methyl-1H-pyrazol-5-yl)phenoxy]-3-cyano-N-1,3-thiazol-2-ylbenzenesulfonamide | 680 mg | ClC1=CC(=C(OC2=C(C=C(C=C2)S(=O)(=O)NC=2SC=CN2)C#N)C=C1)C1=CC=NN1C | C20H14ClN5O3S2
